US07816391B2
Potassium trimethylsilanolate (3.32 g, 23.28 mmol) was added in one portion to ethyl 1-(4-cyanophenyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate (Intermediate#126) (2.4 g, 7.76 mmol), in THF (50 mL), under nitrogen. The resulting suspension was stirred at room temperature for 3 hours. The reaction mixture was evaporated to dryness and redissolved in EtOAc (100 mL), and washed sequentially with 0.1M HCl (50 mL), water (50 mL), and saturated brine (50 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude solid was triturated with isohexane to give a solid which was collected by filtration and dried under vacuum to give 1-(4-cyanophenyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid (1.600 g, 73.3%) as a orange solid. Used directly in next stage.

reactant | Potassium trimethylsilanolate | 23.28 mmol, 3.32 g | C[Si]([O-])(C)C.[K+]
reactant | ethyl 1-(4-cyanophenyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 7.76 mmol, 2.4 g | C(#N)C1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)OCC | C14H10F3N3O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(4-cyanophenyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid | 1.600 g, 73.3% | C(#N)C1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C(=O)O | C12H6F3N3O2
